US05998433
c) Synthesis of 6-[4-(1-phenylcyclopropyl)benzoyl]-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride
6-[4-(1-Phenylcyclopropyl)benzoyl]-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine 0.481 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was concentrated to yield the desired product.

reactant | 6-[4-(1-Phenylcyclopropyl)benzoyl]-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 0.481 g | C1(=CC=CC=C1)C1(CC1)C1=CC=C(C(=O)N2CC3=C(CC2)C=C(O3)CN3CCCC3)C=C1 | C28H30N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 6-[4-(1-phenylcyclopropyl)benzoyl]-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride | Cl.C1(=CC=CC=C1)C1(CC1)C1=CC=C(C(=O)N2CC3=C(CC2)C=C(O3)CN3CCCC3)C=C1 | InChI=1S/C28H30N2O2.ClH/c31-27(21-8-10-24(11-9-21)28(13-14-28)23-6-2-1-3-7-23)30-17-12-22-18-25(32-26(22)20-30)19-29-15-4-5-16-29;/h1-3,6-11,18H,4-5,12-17,19-20H2;1H
